US04940703
(a) 1-Cyclopropylmethyl-1H-indole-3-carboxylic acid
Powdered sodium hydroxide (10 g) was added cautiously to a stirred solution of indole-3-carboxylic acid (5 g) and (bromomethyl)cyclopropane (10 g) in dry acetone (50 ml). The mixture was stirred for 24 hours at room temperature then diluted with water (250 ml) and washed with dichloromethane (2×100 ml). The aqueous phase acidified to pH 2 and the precipitate isolated and dried (6.3 g), m.p. 157° C.; δH (360 MHz, CDCl3) 0.02-0.04 (2H, m, CH2), 0.18-0.28 (2H, m, CH2), 0.83-0.89 (1H, m, CH), 3.57 (2H, d, J=7 Hz, NCH2), 6.7-6.8 (2H, m, H-5, H-6), 6.9 (1H, d, J=7 Hz, H-7), 7.55 (1H, s, H-2), 7.72 (1H, d, J=7 Hz, H- 4); m/z 215 (M+, 100%), 174 (60), 144 (40).

reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | indole-3-carboxylic acid | 5 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | (bromomethyl)cyclopropane | 10 g | BrCC1CC1 | C4H7Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 250 ml | O | H2O
product | 1-Cyclopropylmethyl-1H-indole-3-carboxylic acid | C1(CC1)CN1C=C(C2=CC=CC=C12)C(=O)O | C13H13NO2
